US07635700B2
To a stirred solution of 3-trifluoromethyl-benzoic acid (0.28 g, 1.5 mmol) in DMF (8 mL) in a 40° C. oil bath, was added 1.1′ carbonyldiimidazole (0.27 g, 1.6 mmol) and stirred for one hour. Then 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride (0.50 g, 1.5 mmol) was added and stirred for 15 minutes. The solvent was evaporated, and the residue was purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-3-trifluoromethyl-benzamide as an off-white solid (440 mg, 62% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, grad. to 95/5 in 5 min, kept 5 min, 6.37 min (98.3%); mp, 233-235° C.; 1HNMR (DMSO-d6) 2.17-2.23 (m, 1H, CHH), 2.58-2.91 (m, 6H, CHCH2, CH3), 4.95-5.12 (m, 2H, CH2NH), 5.27 (dd, J=6, 11 Hz, 1H, CH), 7.36-8.27 (m, 7H, Ar), 9.23 (t, J=5 Hz, 1H, CH2NH), 11.05 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.79, 23.29, 30.60, 42.29, 56.52, 117.68, 123.85 (q, JC-F=3 Hz), 123.98 (d, JC-F=273 Hz), 124.15, 125.53, 127.90 (d, JC-F=3 Hz), 129.19 (d, JC-F=32 Hz), 129.72, 131.37, 133.97, 135.05, 140.50, 148.50, 154.86, 161.07, 164.85, 169.54, 172.62. LCMS MH=473; Anal Calcd For C23H19N4O4F3: C, 58.48; H, 4.05; N, 11.86; F, 12.06. Found: C, 58.19; H, 3.84; N, 11.86; F, 12.00.

reactant | 3-trifluoromethyl-benzoic acid | 1.5 mmol, 0.28 g | FC(C=1C=C(C(=O)O)C=CC1)(F)F | C8H5F3O2
reactant | 1.1′ carbonyldiimidazole | 1.6 mmol, 0.27 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride | 1.5 mmol, 0.50 g | Cl.NCC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-3-trifluoromethyl-benzamide | 440 mg, 62% yield | O=C1NC(CCC1N1C(=NC2=CC=CC(=C2C1=O)CNC(C1=CC(=CC=C1)C(F)(F)F)=O)C)=O | C23H19F3N4O4
